US07951810B2
Step c: [(2R,3S,4R,5R)-5-(6-ethyl-9H-purin-9-yl)-3,4-dihydroxytetrahydrofuran-2-yl]-methyl sulfamate (I-132)
A solution of [(3aR,4R,6R,6aR)-6-(6-ethyl-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl tritylsulfamate (149.0 mg, 0.23 mmol) in TFA/water (5.0 mL, 9:1) was stirred for 30 minutes, concentrated to dryness, dissolved in methanol and concentrated again. The residue was purified by prep HPLC to yield the title compound (70 mg, 84%).

reactant | [(3aR,4R,6R,6aR)-6-(6-ethyl-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl tritylsulfamate | 0.23 mmol, 149.0 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NS(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)CC)(=O)=O | C34H35N5O6S
solvent | TFA water | 5.0 mL | C(=O)(C(F)(F)F)O.O
product | [(2R,3S,4R,5R)-5-(6-ethyl-9H-purin-9-yl)-3,4-dihydroxytetrahydrofuran-2-yl]-methyl sulfamate | 70 mg, 84% | S(N)(OC[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C2=NC=NC(=C2N=C1)CC)(=O)=O | C12H17N5O6S
